US08026366B2
A 1 L glass Parr bottle was charged with 7-benzyloxy-3-nitroquinolin-7-ol, anhydrous N,N-dimethylformamide (DMF, 500 mL) and 5% Pt/C catalyst (5.0 g). The vessel was placed on Parr apparatus, evacuated and charged with hydrogen gas (˜45 psi, 3.1×105 Pa). The reaction mixture was shaken overnight. The reaction mixture was filtered through glass fiber filters to remove catalyst. To the resulting dark colored solution was added concentrated hydrochloric acid (12 N HCl, 14 ml, 168.8 mmol). The product precipitated as the hydrochloride salt. The reaction mixture was stirred over the weekend. A solid was collected by vacuum filtration, washed with diethyl ether (100 mL), and air dried overnight to provide 44 g of 3-amino-7-benzyloxyquinolin-4-ol hydrochloride. This material was carried on without further purification.

reactant | 7-benzyloxy-3-nitroquinolin-7-ol | C(C1=CC=CC=C1)OC1(CC=C2C=C(C=NC2=C1)[N+](=O)[O-])O | C16H14N2O4
reactant | hydrochloric acid | 168.8 mmol, 12 N, 14 ml | Cl | ClH
reactant | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
catalyst | Pt/C | 5.0 g | [Pt] | Pt
product | 3-amino-7-benzyloxyquinolin-4-ol hydrochloride | 44 g | Cl.NC=1C=NC2=CC(=CC=C2C1O)OCC1=CC=CC=C1 | InChI=1S/C16H14N2O2.ClH/c17-14-9-18-15-8-12(6-7-13(15)16(14)19)20-10-11-4-2-1-3-5-11;/h1-9H,10,17H2,(H,18,19);1H
